Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ibuprofen
 
Attending: ___.
 
Chief Complaint:
Lower extremity weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is an ___ gentleman with a history of memory 
loss, hypertension, hyperlipidemia, presenting for increased 
weakness. History is obtained by OMR/ED Dash given that patient 
is unable to answer questions reliably. 

Patient thinks he is here to have his blood checked and states 
that over the past few days he has become increasingly weak. 
Patient currently resides at the ___, and has had 
increasing confusion over the past several months, inability to 
ambulate, and ? fall about 2 weeks ago. Patient was seen at the 
___ recently and had negative ___. 
He returned from ___ about ___ days prior to his presentation at 
___. During that time, the staff at the ___ notice 
that the patient was remarkably weaker. He had previously been 
able to ambulate with a walker at baseline, but since returning 
from ___, he was requiring two people to transfer him, and help 
him ambulate. The staff at the ___ sent him to ___ 
for a second opinion and a further workup. 

Patient was found to have difficulty standing up, inability to 
ambulate, and subjectively felt lightheaded and dizzy in the 
___ ED. 

Upon review of ___, it seems that the patient has had a 
20 pound weight loss over the past ___ years. His last 
colonoscopy was in ___, and it was unremarkable. 

The patient does not have any siblings or any family. 
 
Past Medical History:
Hypertension
Hyperlipidemia 
Memory loss
 
Social History:
___
Family History:
The patient states he has no brothers or
sisters.  He states he is uncertain what his parents died from.

 
Physical Exam:
ADMISSION PHYSICAL EXAM  
======================
VS: T 98.4, HR 67, BP 147/67, RR 18, SaO2 100% RA  
GENERAL: Alert, oriented to self only, NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM
NECK: Supple
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB anteriorly
ABDOMEN: +BS, nondistended, soft, nontender
EXTREMITIES: No edema   
PULSES: 2+ DP pulses bilaterally  
NEURO: Alert, oriented to self only, CN ___ grossly intact, 
upper extremity strength ___, moving right leg normally, unable 
to assess strength due to ___, unable to assess 
movement or strength of left leg  
SKIN: Warm and well perfused 

DISCHARGE PHYSICAL EXAM
======================
VS: T 98.1 BP 102/61 HR 93 RR 20 98% RA  
GENERAL: AOx3
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM
NECK: Supple
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB 
ABDOMEN: +BS, nondistended, soft, nontender
EXTREMITIES: No edema   
PULSES: 2+ DP pulses bilaterally  
NEURO: Alert, oriented ___. He thinks he is a hospital, can't 
remember which, and knows the year
SKIN: Warm and well perfused 
 
Pertinent Results:
ADMISSION LAB RESULTS
===================
___ 01:30PM BLOOD ___ 
___ Plt ___
___ 01:30PM BLOOD ___ 
___ Im ___ 
___
___ 01:30PM BLOOD ___ 
___

PERTINENT LAB RESULTS
==================
___ 07:20AM BLOOD ___
___ 09:02AM BLOOD CK(CPK)-45*
___ 09:02AM BLOOD ___ 
___
___ 07:20AM BLOOD ___
___ 09:02AM BLOOD ___

DISCHARGE LABS
==============
___ 06:20AM BLOOD ___ 
___ Plt ___
___ 06:20AM BLOOD ___ 
___

MICROBIOLOGY
============
   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: ___

IMAGING
======
CT Abdomen and Pelvis with Contrast (___):
1. Heterogeneous prostate gland mass with extension outside of 
the capsule and 
involvement of the seminal vesicles.  No definite bladder 
involvement is 
identified, but difficult to evaluate for subtle extension on 
this exam. 
2. Innumerable sclerotic lesions throughout the visualized 
bones, compatible 
with osseous metastatic disease. 
3. 5.1 x 6.8 x 5.9 cm right pelvic sidewall mass likely nodal 
metastases. 
4. Hyperdense nodule associated with a cystic lesion in the 
interpolar region 
of the left kidney.  Although this could represent a hemorrhagic 
cystic 
component, this is incompletely characterized on this exam. 
5. Tubular hypodense structure in the pancreatic uncinate 
process, most likely 
a side branch IPMN. 
6. Cholelithiasis, with gallbladder wall thickening but no 
surrounding 
inflammatory changes.  This is likely due to chronic 
cholecystitis. 

CT Head (___):
1. No acute intracranial process.  Specifically, no intracranial 
hemorrhage. 
2. Global volume loss with ventriculomegaly perhaps out of 
proportion to the sulcal size which raises the possibility of 
NPH.  Recommend correlation with physical exam findings. 

CXR (___):    
No evidence of pneumonia.  Multiple chronic left posterior and 
right anterior rib fractures. 

 
Brief Hospital Course:
Mr. ___ is an ___ gentleman with a past medical history 
of hypertension, hyperlipidemia, progressive cognitive decline 
with memory loss, now presenting with worsening functional 
status and gait disturbance. 

# Metastatic Prostate Cancer: The patient was found to have an 
elevated PSA and an elevated Alk Phos in the setting of normal 
___ and normal GGT. Metastatic prostate cancer was suspected 
given these lab results and the fact that the patient has slowly 
been losing weight over the past ___ years. A CT scan of the 
abdomen and pelvis was obtain and showed a prostatic mass 
extending into the seminal vesicles with metastatic spread to 
the bone. The patient was informed of his prostate cancer 
diagnosis. The patient was informed of his prostate cancer 
diagnosis, but despite repeat reminders does not remember his 
diagnosis when prompted. ___ decided that she would like to be 
his healthcare proxy, so he was discharged to rehab with close 
outpatient heme/onc ___. 

# Lower Extremity Weakness: When the patient first presented to 
the hospital, the strength in his extremities was ___. However, 
he was not able to roll in bed, transfer, or walk on his own. 
Several days after admission, patient was able to ambulate using 
a walker and transfer without assistance. CT scan of the head 
revealed that the patient may have normal pressure 
hydrocephalus. The neurology team evaluated the patient and 
determined that the patient could follow up as an outpatient.

# Normocytic Anemia: Iron studies ___ TIBC, high ferritin, 
and low iron, which is consistent with an anemia of chronic 
disease and iron deficiency anemia mixed picture. His most 
recent colonoscopy was at ___ in ___, and was normal. The 
patient is reporting normal bowel movements without melena. B12 
and folate are normal. He was not started on iron 
supplementation given the constipation side effects of the 
medication

#Encephalopathy: During the hospitalization, the patient's 
mental status waxed and waned. At times he was AAOx3, and knew 
that he was in ___. Other times, he thought that he was in his 
home at the ___. When he first came the ___ ED, 
he was evaluated by physical therapy, who recommended that he go 
to rehab from the ED. He refused at that time, but during the 
hospitalization he was amenable to rehab. He was started on 
thiamine and a multivitamin. He had memory issues with his 
prostate cancer diagnosis as detailed above.

#Normal Pressure Hydrocephalus: The patient had a CT scan of the 
head which was suggestive of normal pressure hydrocephalus. The 
patient's lower extremity weakness gradually resolved. Neurology 
evaluated the patient in the emergency department, and 
determined that there was no inpatient intervention that was 
needed for possible NPH and that he should follow up as an 
outpatient. 

# Hypertension: The patient came into the hospital on atenolol 
for hypertension. His blood pressures ranged in the ___ 
systolic, so his atenolol was stopped in the setting of his gait 
disturbance. Orthostatic vitals obtained during the 
hospitalization were negative. 

# Hyperlipidemia: His simvastatin was continued

TRANSITIONAL ISSUES
=================
- PATIENT IS FULL CODE CURRENTLY BUT LIKELY SHOULD NOT BE. 
PLEASE HAVE CODE STATUS DISCUSSION WITH PCP
- ___ atenolol
- He was started on a multivitamin and thiamine during this 
hospitalization
- He will need to follow up with Dr. ___ of ___ 
Heme/Onc for further workup and treatment of his prostate 
cancer; contact information listed above. 
- Neurology recommended ___ as an outpatient for normal 
pressure hydrocephalus

CODE: Full (confirmed) 
COMMUNICATION: Patient 
EMERGENCY CONTACT ___ Resident 
Care Director, general number ___ is Healthcare proxy: h: ___, 
___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
3.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
- Metastatic Prostate Cancer

Secondary Diagnosis
- ___
- Normocytic anemia
- Encephalopathy
- Hyperlipidemia
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___,
You were seen at ___.

What did you come to the hospital?
=========================
- You came here because the staff at the ___ were 
concerned about your ability to continue to care for yourself.

What did we do for you?
==================
- While you were here, we got a CT scan of your belly which was 
concerning for metastatic prostate cancer. 

What do you need to do?
==================
- It is important that you follow up with ___ Heme/Onc for 
management and treatment of your prostate cancer
- It is also important that you follow up with your primary care 
doctor within two weeks of discharge

It was a pleasure caring for you while you were here. We wish 
you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___